US07402642B2
Synthesis of Methyl cyclooct-4-ene carboxylate/methyl cyclooct-3-ene carboxylate/methyl cyclooct-2-ene Carboxylate Isomer Mixture
Using the procedure described in Example 22, methanol (substituted for t-butanol in equivalent molar amount) was reacted with cyclooctadiene and carbon monoxide for 4 hours in the presence of PdCl2 and PPh3 using toluene as a solvent (McLain, S. J., et al., Polym. Mat. Sci. Eng., 1997, 76, 246). Uptake of CO was observed to be more rapid than in Example 22; the reactor was recharged to 600 psig with CO when pressure dropped below 300 psi. The crude material was passed through a plug of silica and fractionally distilled at 20 torr. Unreacted cyclooctadiene was collected at 30–40° C., followed by the desired cyclooctene methyl ester product at 105–108° C. (36.7 g, 23.6%) (clear colorless liquid). The collected product was found to be a mixture of 63.3 mol % methyl cyclooct-4-ene carboxylate, 34.5 mol % methyl cyclooct-3-ene carboxylate, and 2.2 mol % methyl cyclooct-2-ene carboxylate by 1H NMR. 1H NMR (300 MHz, CDCl3): δ 5.6–5.8 (m, 2H), 3.70, 3.67, 3.65 (2-, 3-, and 4-ene isomers, respectively, 3H in 1:15.4:28.3 ratio), 2.29–2.56, (m, 2H), 1.95–2.29 (m, 3H), 1.32–1.95 (m, 6H) ppm. 13C NMR (75 MHz, CDCl3): δ 178.0, 176.2, 132.0, 130.4, 129.4, 127.3, 51.5, 51.4, 44.9, 43.1, 31.5, 29.4, 29.1, 28.1, 27.8, 27.1, 25.8, 24.4, 24.0 ppm. IR (film on NaCl): 3017, 2932, 2859, 1736, 1467, 1449, 1392, 1334, 1165, 747, 714 cm−1. Analysis calculated for C10H16O2: C, 71.39; H, 9.59. Found: C, 71.36; H, 9.64. HRMS-FAB: Theoretical: 168.1150; Found: 168.1151.

reactant | methanol | CO | CH4O
reactant | cyclooctadiene | C1=CC=CCCCC1 | C8H12
reactant | carbon monoxide | [C]=O | CO
reactant | PPh3 | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | PdCl2 | Cl[Pd]Cl
product | Methyl cyclooct-4-ene carboxylate methyl cyclooct-3-ene carboxylate methyl cyclooct-2-ene Carboxylate | C1(CCC=CCCC1)C(=O)OC.C1(CC=CCCCC1)C(=O)OC.C1(C=CCCCCC1)C(=O)OC | 3C10H16O2
